datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)[NH:10]CC(O)COc1nsnc1N1CCOCC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(C)[NH+:10](CC(O)COc1nsnc1N1CCOCC1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)CSCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)CSCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)C(=S)[N:21](C(=O)c1ccc(C)cc1)[H:20].c1ccc(CC[NH2:10])cc1>>CCN(CC)C(=S)[N-:21]C(=O)c1ccc(C)cc1.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C[NH:10][C@H]1CCCC[C@@H]1O.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10]([C@H]1CCCC[C@@H]1O)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1(C)SC(=S)[N-:10]C1=O.Cc1nc(C(=O)[O-])ccc1[O:21][H:20]>>CC1(C)SC(=S)[N:10]([H:20])C1=O.Cc1nc(C(=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"CC[NH:10]c1ccccc1C.CN(C)c1nc[n+:21]([H:20])c2[nH]ncc12>>CC[NH+:10](c1ccccc1C)[H:20].CN(C)c1nc[n:21]c2[nH]ncc12 10=20;20,21=21",
"CC1(C)C=CC(C)(c2cc3c(cc2[O-:10])OC(=O)C=C3)CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1(C)C=CC(C)(c2cc3c(cc2[O:10][H:20])OC(=O)C=C3)CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CC(C(=O)[O:21][H:20])=[N+]([O-])C1(C)C.Cc1cccc(C)c1[O-:10]>>CC1CC(C(=O)[O-:21])=[N+]([O-])C1(C)C.Cc1cccc(C)c1[O:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12.O=[N+]([O-])c1ccccc1-c1nnn[n:21]1[H:20]>>CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12.O=[N+]([O-])c1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"NC1=[NH+][C@H]2C[C@@H](N1)[NH:10][C@@H]2C(=O)[O-].S=C(Nc1ccccc1)[N:21](C(=S)c1ccccc1)[H:20]>>NC1=[NH+][C@H]2C[C@@H](N1)[NH+:10]([H:20])[C@@H]2C(=O)[O-].S=C(Nc1ccccc1)[N-:21]C(=S)c1ccccc1 10=20;20,21=21",
"CCCCCS/C(c1ccccc1)=[NH+:21]\[H:20].O=C(C[NH2:10])Nc1ccccc1>>CCCCCSC(c1ccccc1)=[NH:21].O=C(C[NH2+:10][H:20])Nc1ccccc1 10=20;20,21=21",
"Cc1cc(N)c2ccccc2c1[O-:10].Clc1ccc(CC[NH2+:21][H:20])cc1>>Cc1cc(N)c2ccccc2c1[O:10][H:20].Clc1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"NC(=S)[N:21](c1ccc(Br)cc1)[H:20].[O-]c1c2nccnc2cc[n:10]1>>NC(=S)[N-:21]c1ccc(Br)cc1.[O-]c1c2nccnc2cc[n+:10]1[H:20] 10=20;20,21=21",
"CCCCC([NH3+])C(=O)[O:21][H:20].Cc1cc2c(cc1N)Sc1cc([N:10](C)C)ccc1N2>>CCCCC([NH3+])C(=O)[O-:21].Cc1cc2c(cc1N)Sc1cc([N+:10](C)(C)[H:20])ccc1N2 10=20;20,21=21",
"COc1cnccc1C(O)[O-:10].Cc1ccc2ccccc2c1C(=O)[O:21][H:20]>>COc1cnccc1C(O)[O:10][H:20].Cc1ccc2ccccc2c1C(=O)[O-:21] 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Brc1cccc(Br)c1[O-:10].Cc1cc([O:21][H:20])ccc1[N+](=O)[O-]>>Brc1cccc(Br)c1[O:10][H:20].Cc1cc([O-:21])ccc1[N+](=O)[O-] 10=20;20,21=21",
"Clc1ccc([O-:10])c(C[NH+]2CCCCC2)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cccc(S(=O)(=O)[NH-:10])c1.N#CC(C#N)=[N+:21](Nc1ccc([N+](=O)[O-])cc1Cl)[H:20]>>COc1cccc(S(=O)(=O)[NH:10][H:20])c1.N#CC(C#N)=[N:21]Nc1ccc([N+](=O)[O-])cc1Cl 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])c(-c2cc(Cl)ccn2)c1.O=C([O-])CSc1[nH]c2cc3c(cc2[n:10]1)CCCC3>>Nc1cc[n:21]c(-c2cc(Cl)ccn2)c1.O=C([O-])CSc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3 10=20;20,21=21",
"C[N+](C)(C)c1ccccc1[O-:10].O=[N+]([O-])c1ccc(/C(=N\[O:21][H:20])c2ccccc2)cc1>>C[N+](C)(C)c1ccccc1[O:10][H:20].O=[N+]([O-])c1ccc(/C(=N\[O-:21])c2ccccc2)cc1 10=20;20,21=21",
"CC(=O)c1ccc([O:21][H:20])c([N+](=O)[O-])c1.CC(=O)c1cccc([N-:10]C(N)=S)c1>>CC(=O)c1ccc([O-:21])c([N+](=O)[O-])c1.CC(=O)c1cccc([N:10](C(N)=S)[H:20])c1 10=20;20,21=21",
"C[NH2+]CCCNC(=O)/C=N/[O:21][H:20].O=C(C=C(c1ccccc1)[S-:10])Nc1ccccc1>>C[NH2+]CCCNC(=O)/C=N/[O-:21].O=C(C=C(c1ccccc1)[S:10][H:20])Nc1ccccc1 10=20;20,21=21",
"CCCCNc1cc[nH+]c([O-])[n:10]1.NC(=O)C(N)CCC(=O)[O:21][H:20]>>CCCCNc1cc[nH+]c([O-])[n+:10]1[H:20].NC(=O)C(N)CCC(=O)[O-:21] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=C(C)C(=O)OCC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:21](C)(C)[H:20].c1ncc2cn[n-:10]c2n1>>C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:21](C)C.c1ncc2cn[n:10]([H:20])c2n1 10=20;20,21=21",
"Cc1csc2n1cc[n+:21]2[H:20].[O-]N=C1C(=NO)CCC/C1=N\[O-:10]>>Cc1csc2n1cc[n:21]2.[O-]N=C1C(=NO)CCC/C1=N\[O:10][H:20] 10=20;20,21=21",
"Nc1cn[n:10]c2ccccc12.O=C([O-])c1cccc[n+:21]1[H:20]>>Nc1cn[n+:10]([H:20])c2ccccc12.O=C([O-])c1cccc[n:21]1 10=20;20,21=21",
"CC(C)(C)CC(C)(C)[NH2:10].O=S(=O)([O-])CC[N+:21]1([H:20])CCOCC1>>CC(C)(C)CC(C)(C)[NH2+:10][H:20].O=S(=O)([O-])CC[N:21]1CCOCC1 10=20;20,21=21",
"CC(C)(C)n1cc[n:10]c1.CCNc1ncnc2c1cn[n:21]2[H:20]>>CC(C)(C)n1cc[n+:10]([H:20])c1.CCNc1ncnc2c1cn[n-:21]2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=Cc1ccc(C[NH2:10])o1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=Cc1ccc(C[NH2+:10][H:20])o1 10=20;20,21=21",
